US04129655
The starting material is prepared as follows: To the stirred, refluxing solution of 21 g of 2-hydroxy-thiophenol in 290 ml of acetone is added dropwise 12.5 g of 3,4-dibromo-butyronitrile along with small portions of 15.8 g of anhydrous potassium carbonate. After 30 minutes, the double addition procedure with said amounts of dibromo compound and potassium carbonate is repeated, and after a further 30 minutes said procedure is repeated a third time. The mixture is then refluxed for 20 hours, cooled, filtered, the residual salts washed with acetone, and the filtrate evaporated. The residue is distilled (bulb to bulb), and the fraction boiling at 185°/0.5 mm Hg collected, to yield the 2-(1,4-benzoxathian-2-yl)-acetonitrile.

reactant | 2-hydroxy-thiophenol | 21 g | OC1=C(C=CC=C1)S | C6H6OS
reactant | 3,4-dibromo-butyronitrile | 12.5 g | BrC(CC#N)CBr | C4H5Br2N
reactant | potassium carbonate | 15.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 290 ml | CC(=O)C | C3H6O
product | 2-(1,4-benzoxathian-2-yl)-acetonitrile | O1C(CSC2=C1C=CC=C2)CC#N | C10H9NOS
